US08071586B2
4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide
In analogy to the procedure described in Example 2, (S)-2-[4-(3-chloro-phenyl-carbamoyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester and lithium borohydride gave the title compound in 27% yield as an off-white powder. MS: 465.3 (MH+, 1Cl).

reactant | (S)-2-[4-(3-chloro-phenyl-carbamoyl)-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1CCN(CCC1=O)C(NC1=CC(=CC=C1)Cl)=O)=O | C24H33ClN4O5
reactant | lithium borohydride | [BH4-].[Li+]
product | 4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide | 27% yield | ClC=1C=C(C=CC1)NC(=O)N1CCN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)CO | C23H33ClN4O4
